US04009313
Preparation of 90/10 vinyl pyrrolidone/acrolein copolymer.
A 3-neck, round bottom flask equipped with a mechanical stirrer, means for maintaining an inert atmosphere in the flask and a thermometer is charged with 368 ml. of distilled water, 22.2 g. (0.2 mol) N-vinyl pyrrolidone and 1.3 g. (0.02 mol) of acrolein. The flask is flushed with nitrogen, and the contents of the flask are maintained under nitrogen during the course of the reaction. The mixture is stirred, the temperature is raised to 50°-55° C. and maintained at this temperature, and 0.2 g. of 4,4'-azobiscyanopentanoic acid is added. After 2 hours reaction an additional 0.2 g. of 4,4'-azobiscyanopentanoic acid is added, and the reaction is allowed to continue for an additional 3 hours. At the end of this time, the mixture is filtered to remove a small amount of insoluble material. The filtrate obtained contains about 6 percent by weight of copolymer. The solution may be used as such or isolated by spray or drum drying.

reactant | N-vinyl pyrrolidone | 0.2 mol | C(=C)N1C(CCC1)=O | C6H9NO
reactant | acrolein | 0.02 mol | C(=O)C=C | C3H4O
solvent | water | O | H2O
product | vinyl pyrrolidone acrolein | C(=C)N1C(CCC1)=O.C(=O)C=C | InChI=1S/C6H9NO.C3H4O/c1-2-7-5-3-4-6(7)8;1-2-3-4/h2H,1,3-5H2;2-3H,1H2
